US04396622
1-[2-(4-Acetylaminobenzenesulphonamido)ethyl]-pyrrolidinium chloride (1)
4-Acetylaminobenzenesulphonylchloride (21.9 g) was added in portions to a solution of 1-(2-aminoethyl)pyrrolidine (10.7 g, 0.9 mol) in water (250 ml). The mixture was stirred for 9 hours at room temperature. At the end of the reaction, the solution has pH 6-7. A portion of the mixture (165 ml) was removed and adjusted to pH 9.5. The precipitate from the mixture (4.9 g) was removed under suction and dissolved in ethyl acetate (170 ml). The solution was filtered and HCl gas was passed through. Precipitated chloride was isolated and recrystallised from absolute ethanol (350 ml) to give the product (27.2 g).

reactant | 4-Acetylaminobenzenesulphonylchloride | 21.9 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | 1-(2-aminoethyl)pyrrolidine | 0.9 mol, 10.7 g | NCCN1CCCC1 | C6H14N2
solvent | water | 250 ml | O | H2O
product | 1-[2-(4-Acetylaminobenzenesulphonamido)ethyl]-pyrrolidinium chloride | yield=78% | [Cl-].C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCC[NH+]1CCCC1 | InChI=1S/C14H21N3O3S.ClH/c1-12(18)16-13-4-6-14(7-5-13)21(19,20)15-8-11-17-9-2-3-10-17;/h4-7,15H,2-3,8-11H2,1H3,(H,16,18);1H
